US07825267B2
To a stirred solution of recovered (S,Z)-5-((2R,3R,5S,6S)-2,5-dimethyl-6-((E)-3-methylpenta-2,4-dienyl)-tetrahydro-2H-pyran-3-ylamino)-5-oxopent-3-en-2-yl morpholine-4-carboxylate and (3R,4R,5R)-5-ethenyl-7,7-dimethyl-1,6-dioxaspiro[2.5]octan-4-ol (22.1 mg) in ClCH2CH2Cl (200 μL) was added benzoquinone (1.0 mg, 0.010 mmol) and Grela Catalyst (2.0 mg, 3.0 μmol) at 23° C. under an open atmosphere. The reaction mixture was then heated to 42° C. After an additional 14 h at the same temperature, the reaction was concentrated under reduced pressure. The resulting residue was purified by flash chromatography (10→80% EtOAc in hexanes) on silica gel (8 mL) to give (2Z,4S)-4-[(morpholinylcarbonyl)oxy]-N-[(2R,3R,5S,6S)-tetrahydro-6-[(2E,4E)-5-[(3R,4R,5R)-4-hydroxy-7,7-dimethyl-1,6-dioxaspiro[2.5]oct-5-yl]-3-methyl-2,4-pentadien-1-yl]-2,5-dimethyl-2H-pyran-3-yl]-2-pentenamide as a pale tan solid. The combined yield of (2Z,4S)-4-[(morpholinylcarbonyl)oxy]-N-[(2R,3R,5S,6S)-tetrahydro-6-[(2E,4E)-5-[(3R,4R,5R)-4-hydroxy-7,7-dimethyl-1,6-dioxaspiro[2.5]oct-5-yl]-3-methyl-2,4-pentadien-1-yl]-2,5-dimethyl-2H-pyran-3-yl]-2-pentenamide after one cycle is 15.7 mg (44%). Some of the tan (2Z,4S)-4-[(morpholinylcarbonyl)oxy]-N-[(2R,3R,5S,6S)-tetrahydro-6-[(2E,4E)-5-[(3R,4R,5R)-4-hydroxy-7,7-dimethyl-1,6-dioxaspiro[2.5]oct-5-yl]-3-methyl-2,4-pentadien-1-yl]-2,5-dimethyl-2H-pyran-3-yl]-2-pentenamide was purified by semi-preparative HPLC (Conditions: flow rate=2.5 mL, from 30% to 100% MeCN in H2O over 30 min; Column=Varian Pursuit XRs C18 column (5 μm packing, 250×10 mm); Retention time 16.70 min; Detection=237 nm) to afford (2Z,4S)-4-[(morpholinylcarbonyl)oxy]-N-[(2R,3R,5S,6S)-tetrahydro-6-[(2E,4E)-5-[(3R,4R,5R)-4-hydroxy-7,7-dimethyl-1,6-dioxaspiro[2.5]oct-5-yl]-3-methyl-2,4-pentadien-1-yl]-2,5-dimethyl-2H-pyran-3-yl]-2-pentenamide as a colorless oil that was subsequently used for biological experiments.

reactant | (S,Z)-5-((2R,3R,5S,6S)-2,5-dimethyl-6-((E)-3-methylpenta-2,4-dienyl)-tetrahydro-2H-pyran-3-ylamino)-5-oxopent-3-en-2-yl morpholine-4-carboxylate | N1(CCOCC1)C(=O)O[C@@H](C)\C=C/C(=O)N[C@H]1[C@H](O[C@H]([C@H](C1)C)C\C=C(\C=C)/C)C | C23H36N2O5
reactant | (3R,4R,5R)-5-ethenyl-7,7-dimethyl-1,6-dioxaspiro[2.5]octan-4-ol | 22.1 mg | C(=C)[C@@H]1[C@H]([C@]2(CO2)CC(O1)(C)C)O | C10H16O3
reactant | benzoquinone | 0.010 mmol, 1.0 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | ClCH2CH2Cl | 200 μL | C(CCl)Cl | C2H4Cl2
product | (2Z,4S)-4-[(morpholinylcarbonyl)oxy]-N-[(2R,3R,5S,6S)-tetrahydro-6-[(2E,4E)-5-[(3R,4R,5R)-4-hydroxy-7,7-dimethyl-1,6-dioxaspiro[2.5]oct-5-yl]-3-methyl-2,4-pentadien-1-yl]-2,5-dimethyl-2H-pyran-3-yl]-2-pentenamide | N1(CCOCC1)C(=O)O[C@H](\C=C/C(=O)N[C@H]1[C@H](O[C@H]([C@H](C1)C)C\C=C(\C=C\[C@@H]1[C@H]([C@]2(CO2)CC(O1)(C)C)O)/C)C)C | C31H48N2O8
